US04061647
4-(2,4-Dichloro-5-sulfamoylphenyl)-3-cyclohexyl-2-cyclohexylimino-1,3-thiazolidine-4-ol-hydrobromide
2.4 g of 1,3-dicyclohexyl-thiourea were added to 3,5 g of 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone in 40 ml of ethyl acetate. The whole was allowed to stand overnight at 20° C, the crystals were filtered off and washed with ethyl acetate. M.p. 161°-163° C.

reactant | 1,3-dicyclohexyl-thiourea | 2.4 g | C1(CCCCC1)NC(=S)NC1CCCCC1 | C13H24N2S
reactant | 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone | 3,5 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2,4-Dichloro-5-sulfamoylphenyl)-3-cyclohexyl-2-cyclohexylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N(C(SC1)=NC1CCCCC1)C1CCCCC1)O | InChI=1S/C21H29Cl2N3O3S2.BrH/c22-17-12-18(23)19(31(24,28)29)11-16(17)21(27)13-30-20(25-14-7-3-1-4-8-14)26(21)15-9-5-2-6-10-15;/h11-12,14-15,27H,1-10,13H2,(H2,24,28,29);1H
